US09260397B2
1-(2-ethoxyphenyl)-3-heptyl imidazolium bromide
According to the general synthesis procedure, 1.62 mmol (0.305 g) 1-(2-ethoxyphenyl)imidazole and 11.00 mmol (0.319 g, 0.280 ml) 1-bromoheptane are dissolved in 3 ml diethylether and heated for 4 h to 100° C.

reactant | 1-(2-ethoxyphenyl)imidazole | 1.62 mmol, 0.305 g | C(C)OC1=C(C=CC=C1)N1C=NC=C1 | C11H12N2O
reactant | 1-bromoheptane | 11.00 mmol, 0.280 ml, 0.319 g | BrCCCCCCC | C7H15Br
solvent | diethylether | 3 ml | C(C)OCC | C4H10O
product | 1-(2-ethoxyphenyl)-3-heptyl imidazolium bromide | [Br-].C(C)OC1=C(C=CC=C1)[N+]1=CN(C=C1)CCCCCCC | InChI=1S/C18H27N2O.BrH/c1-3-5-6-7-10-13-19-14-15-20(16-19)17-11-8-9-12-18(17)21-4-2;/h8-9,11-12,14-16H,3-7,10,13H2,1-2H3;1H/q+1;/p-1
